US05430067
4-Methyl-7-methoxy-3-(2',5'-dimethoxyphenyl)-1-(3H)-isobenzofuranone (17 g) and triethylsilane (15 g) were dissolved in dichloromethane (200 ml) and stirred at room temperature under nitrogen. Titanium tetrachloride (5N in CCl4, 25 ml) was added by syringe. The reaction mixture was stirred at room temperature for 4 hours. Water (10 ml) was added dropwise and the reaction mixture was concentrated down. The resulting slurry was dissolved (with heating) in 2N NaOH (aq) and filtered through celite. The filtrate was washed with diethyl ether (2×200 ml) and acidified with concentrated HCl (aq). The resulting precipitate was collected by filtration and dried to give 4-methyl-6-methoxy-2-(2',5'-dimethoxybenzyl)benzoic acid, m.p. 172°-174° C.

reactant | 4-Methyl-7-methoxy-3-(2',5'-dimethoxyphenyl)-1-(3H)-isobenzofuranone | 17 g | CC1=C2C(OC(C2=C(C=C1)OC)=O)C1=C(C=CC(=C1)OC)OC | C18H18O5
reactant | triethylsilane | 15 g | C(C)[SiH](CC)CC | C6H16Si
reactant | Water | 10 ml | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
catalyst | Titanium tetrachloride | 5N, 25 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 4-methyl-6-methoxy-2-(2',5'-dimethoxybenzyl)benzoic acid | CC1=CC(=C(C(=O)O)C(=C1)OC)CC1=C(C=CC(=C1)OC)OC | C18H20O5
